US04565817
5.04 g. of 2-(theophyllin-7-yl)-acetamidoxime and 1.08 g. of sodium methylate are suspended in 60 cm3 dimethylformamide whereafter a solution of 5.13 g. of theophyllin-7-yl-acetyl chloride in 25 cm3 of dimethyl-formamide is added dropwise within 15 minutes. The mixture is heated for 1 hour and after adding a small amount of activated charcoal it is filtered while hot and the filtrate is evaporated at reduced pressure. The residue is dissolved in 100 cm3 0.1N sodium hydrogen carbonate solution while hot and after cooling the crystals are filtered by suction, washed with water and crystallized from 50% aqueous ethanol. Thus 6.6 g. of 3-(theophyllin-7-yl-methyl)-5-(theophylline-7-yl)-methyl-1,2,4-oxadiazole are obtained, m.p.: 271°-272° C.

reactant | 2-(theophyllin-7-yl)-acetamidoxime | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(N)=NO | C9H12N6O3
reactant | sodium methylate | C[O-].[Na+]
reactant | theophyllin-7-yl-acetyl chloride | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)Cl | C9H9ClN4O3
reactant | charcoal | C | CH4
solvent | dimethylformamide | 60 cm3 | CN(C=O)C | C3H7NO
solvent | dimethyl-formamide | 25 cm3 | CN(C=O)C | C3H7NO
product | 3-(theophyllin-7-yl-methyl)-5-(theophylline-7-yl)-methyl-1,2,4-oxadiazole | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC1N(OC(=N1)N1C=NC=2N(C(N(C)C(C12)=O)=O)C)C | C18H20N10O5
